US07723330B2
A 17:83 mixture of N-(4-(1-(4-methoxybenzyl)-3-(5-((4-methylpiperazin-1-yl)methyl)furan-3-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide and N-(4-(1-(4-methoxybenzyl)-3-(3-bromo-5-((4-methylpiperazin-1-yl)methyl)furan-2-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)-cyclopropane-1,1-dicarboxamide (26 mg, 0.035 mmol) were heated with TFA (0.5 mL) at 80° C. for 2 hours in a sealed vessel. After cooling to ambient temperature, the mixture was concentrated in vacuo, using toluene to azeotrope. The resulting solid was portioned between EtOAc (5 mL) and 1:1 saturated aqueous NaHCO3/water (5 mL). The phases were separated, and the aqueous phase was re-extracted with EtOAc. The combined organic phases were washed with brine (5 mL), dried (Na2SO4), filtered, and concentrated. The crude products were separated by preparative TLC (0.5 mm thickness; N-(4-(3-(3-bromo-5-((4-methylpiperazin-1-yl)methyl)furan-2-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide: Rf=0.33; N-(3-fluoro-4-(3-(5-((4-methylpiperazin-1-yl)methyl)furan-3-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide: Rf=0.25), eluting with 10% MeOH (containing 7N NH3) in CHCl3. The product, N-(3-fluoro-4-(3-(5-((4-methylpiperazin-1-yl)methyl)furan-3-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide, was obtained as a white powder (1 mg, 5%). HPLC: 98% purity (254 nm); LRMS (ESI+): 100% purity, 220 nm, 628 m/z (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 10.06 (s, 1H), 8.32 (d, J=5 Hz, 1H), 8.18 (m, 2H), 7.77 (m, 1H), 7.45 (m, 2H), 7.24 (m, 1H), 7.07 (t, J=9 Hz, 2H), 6.92 (s, 1H), 6.32 (d, J=5 Hz, 1H), 3.62 (s, 2H), 2.64 (br s, 8H), 2.37 (s, 3H), 1.83 (m, 2H), 1.63 (m, 2H).

reactant | N-(4-(1-(4-methoxybenzyl)-3-(5-((4-methylpiperazin-1-yl)methyl)furan-3-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N(C(=O)C3(CC3)C(=O)N)C3=CC=C(C=C3)F)F)C3=COC(=C3)CN3CCN(CC3)C)C=C1 | C41H39F2N7O5
reactant | N-(4-(1-(4-methoxybenzyl)-3-(3-bromo-5-((4-methylpiperazin-1-yl)methyl)furan-2-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)-3-fluorophenyl)-N-(4-fluorophenyl)-cyclopropane-1,1-dicarboxamide | 0.035 mmol, 26 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)N(C(=O)C3(CC3)C(=O)N)C3=CC=C(C=C3)F)F)C=3OC(=CC3Br)CN3CCN(CC3)C)C=C1 | C41H38BrF2N7O5
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(5-((4-methylpiperazin-1-yl)methyl)furan-3-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2C2=COC(=C2)CN2CCN(CC2)C)N(C(=O)C2(CC2)C(=O)N)C2=CC=C(C=C2)F | C33H31F2N7O4
